US05700801
b) [4 -(4-Pyridyl)-piperazin-1-y1]acetic acid-dihydrochloride
Prepared from methyl [4-(4-pyridyl)-piperazin-1-yl]acetate dihydrochloride and semiconcentrated hydrochloric acid analogously to Example IIb.

reactant | methyl [4-(4-pyridyl)-piperazin-1-yl]acetate dihydrochloride | Cl.Cl.N1=CC=C(C=C1)N1CCN(CC1)CC(=O)OC
reactant | hydrochloric acid | Cl | ClH
product | [4 -(4-Pyridyl)-piperazin-1-y1]acetic acid-dihydrochloride | Cl.Cl.N1=CC=C(C=C1)N1CCN(CC1)CC(=O)O | InChI=1S/C11H15N3O2.2ClH/c15-11(16)9-13-5-7-14(8-6-13)10-1-3-12-4-2-10;;/h1-4H,5-9H2,(H,15,16);2*1H
